US08455475B2
Step 6: EDCl.
HCl (503 mg, 2.62 mmol), HOBT (177 mg, 1.311 mmol) and DIPEA (0.6 ml) were added to a solution of the product just obtained in step 5 (400 mg, 1.3114 mmol) in methylene chloride (10 ml). The reaction mixture was stirred at 25° C. for 30 min and then cooled to 0° C. and 3-pyridin-4-yl-3,9-diaza-spiro[5.5]undecane (364 mg, 1.57 mmol) was added. The reaction mixture was stirred at 25° C. for 12 h, subsequently diluted with methylene chloride and washed with sat. NH4Cl solution and with NaHCO3 solution. The organic phase was washed with water and sat. NaCl solution, dried over sodium sulfate and concentrated under reduced pressure. The crude product was purified by column chromatography.

reactant | HCl | 2.62 mmol, 503 mg | Cl | ClH
reactant | HOBT | 1.311 mmol, 177 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.6 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-pyridin-4-yl-3,9-diaza-spiro[5.5]undecane | 1.57 mmol, 364 mg | N1=CC=C(C=C1)N1CCC2(CC1)CCNCC2 | C14H21N3
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | EDCl | CCN=C=NCCCN(C)C.Cl | InChI=1S/C8H17N3.ClH/c1-4-9-8-10-6-5-7-11(2)3;/h4-7H2,1-3H3;1H
